US06596726B1
A mixture of 4-(3-bromoanilino)-6,7-diaminoquinazoline (90 mg, 0.27 mmol) and 1,4-dioxane-2,3-diol (0.2 g, 1.6 mmol) [Venuti, M. C.; Synthesis, 1982, 61-63] in MeOH (20 mL) is stirred at room temperature overnight to give a precipitate of 4-(3-bromoanilino)pyrazino[2,3-g]quinazoline (80 mg, 83%).

reactant | 4-(3-bromoanilino)-6,7-diaminoquinazoline | 0.27 mmol, 90 mg | BrC=1C=C(NC2=NC=NC3=CC(=C(C=C23)N)N)C=CC1 | C14H12BrN5
reactant | 1,4-dioxane-2,3-diol | 1.6 mmol, 0.2 g | O1C(C(OCC1)O)O | C4H8O4
solvent | MeOH | 20 mL | CO | CH4O
product | 4-(3-bromoanilino)pyrazino[2,3-g]quinazoline | 80 mg, 83% | BrC=1C=C(NC2=NC=NC3=CC4=C(C=C23)N=CC=N4)C=CC1 | C16H10BrN5
